US07053117B2
2-Amino-3-cyano-4-phenyl-1,4-dihydroquinoline: A solution of 2-imino-3-cyano-7-methoxy-4-(3′-methoxy-phenyl)-2H-thiochromene (25 mg, 0.077 mmol) in 2.3 mL of dry methanol was treated with sodium borohydride (5.0 mg, 0.13 mmol) at 0° C. The resultant mixture was stirred overnight at room temperature. It was then neutralized with 3 drops of a 1 N solution of hydrochloric acid, dissolved in 20 mL of ether, washed twice with 10 mL of aqueous saturated bicarbonate and dried with sodium sulfate. The solvent was evaporated and the residue was purified by flash chromatography using 25% ethyl acetate/hexanes to yield 15.9 mg (63%) of 2-amino-3-cyano-7-methoxy-4-(3-methoxyphenyl)-4H-thiochromene as a pale yellow solid. 1H NMR (CDCl3): 7.14–7.21 (m, 2H), 6.79–6.82 (m, 3H), 6.72–6.76 (m, 2H), 4.82 (s, 1H), 4.66 (brs, 2H), 3.79 (s, 3H), 3.75 (s, 3H).

reactant | 2-Amino-3-cyano-4-phenyl-1,4-dihydroquinoline | NC=1NC2=CC=CC=C2C(C1C#N)C1=CC=CC=C1 | C16H13N3
reactant | 2-imino-3-cyano-7-methoxy-4-(3′-methoxy-phenyl)-2H-thiochromene | 0.077 mmol, 25 mg | N=C1SC2=CC(=CC=C2C(=C1C#N)C1=CC(=CC=C1)OC)OC | C18H14N2O2S
reactant | sodium borohydride | 0.13 mmol, 5.0 mg | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 2.3 mL | CO | CH4O
solvent | ether | 20 mL | CCOCC | C4H10O
product | 2-amino-3-cyano-7-methoxy-4-(3-methoxyphenyl)-4H-thiochromene | 15.9 mg, 63% | NC=1SC2=CC(=CC=C2C(C1C#N)C1=CC(=CC=C1)OC)OC | C18H16N2O2S
